US07208494B2
T a solution of 0.907 g (R)-7-fluoro-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester (0.0030 mol) in 12 mL of glacial acetic acid was added in 2 portions 0.936 g sodium cyanoborohydride (0.015 mol) with cooling. The mixture was then stirred at ambient temperature for 2 h. The solvent was evaporated and the residue was partitioned between water (adjusted to pH 10–11 by addition of aqueous sodium hydroxide solution) and dichloromethane. The organic phase was evaporated to dryness then purified by chromatography on silica gel with heptane:ethyl acetate (2:1) to yield a slightly yellow oil which solidified on standing to yield 0.852g [4R,9aR]-7-fluoro-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester (94% th) slightly yellow crystals; m.p.: 56.6–58.4° C.

reactant | (R)-7-fluoro-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.0030 mol, 0.907 g | C(C)(C)(C)OC(=O)N1CC2=CC3=CC(=CN=C3N2[C@@H](C1)C)F | C16H20FN3O2
reactant | sodium cyanoborohydride | 0.015 mol, 0.936 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | [4R,9aR]-7-fluoro-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.852g, 94% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=CN=C3N2[C@@H](C1)C)F | C16H22FN3O2
